US05607939
2-Acetyl-4-phenyl-4-{2-[4-(p-fluorophenyl)-piperazin-1-yl]propyl}-1,2,3,4-tetrahydroisoquinoline hydrochloride
To a solution of 4-phenyl-4-{2-[4-(p-fluorophenyl)piperazin-1-yl]propyl}-1,2,3,4-tetrahydroisoquinoline (1.2 g) in methylene chloride (30 ml) was added acetic anhydride (0.33 ml) with ice-cooling and stirring and the mixture was further stirred at room temperature for 1 hour. The reaction mixture was then concentrated to dryness and the residue was purified by silica gel column chromatography (ethyl acetate-methanol=10:1) and treated with hydrochloric acid to provide the title compound (1.2 g) as white crystals.

reactant | 4-phenyl-4-{2-[4-(p-fluorophenyl)piperazin-1-yl]propyl}-1,2,3,4-tetrahydroisoquinoline | 1.2 g | C1(=CC=CC=C1)C1(CNCC2=CC=CC=C12)CC(C)N1CCN(CC1)C1=CC=C(C=C1)F | C28H32FN3
reactant | acetic anhydride | 0.33 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetyl-4-phenyl-4-{2-[4-(p-fluorophenyl)-piperazin-1-yl]propyl}-1,2,3,4-tetrahydroisoquinoline hydrochloride | 1.2 g | Cl.C(C)(=O)N1CC2=CC=CC=C2C(C1)(CC(C)N1CCN(CC1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C30H34FN3O.ClH/c1-23(32-16-18-33(19-17-32)28-14-12-27(31)13-15-28)20-30(26-9-4-3-5-10-26)22-34(24(2)35)21-25-8-6-7-11-29(25)30;/h3-15,23H,16-22H2,1-2H3;1H
